simulator lang=spectre
global 0

ahdl_include "./dut/sar_comparator_reset_high.va"

Vclk (cmpck 0) vsource type=pulse val0=0 val1=0.9 delay=0.35n period=1n width=0.45n rise=20p fall=20p
Vinp (vinp 0) vsource type=pwl wave=[0 0.65 1n 0.65 1.05n 0.20 2n 0.20 2.05n 0.45 3.2n 0.45]
Vinn (vinn 0) vsource dc=0.45
XDUT (cmpck vinn vinp dcmpn dcmpp) sar_comparator_reset_high

simulatorOptions options evas_profile=balanced

tran tran stop=3.0n maxstep=5p
save cmpck vinn vinp dcmpn dcmpp
